US04833152
Synthesis of Nα -cyclopentanecarbonyl-cycloleucine
A cool solution of 15 mmoles of dicyclohexylcarbodiimide in dichloromethane is added to a solution of 15 mmoles of cyclopentanecarboxylic acid in dichloromethane at -5° C. 15 mmoles of cycloleucine benzyl ester toluenesulfonate salt in dimethylformamide (DMF), which is neutralized with N-ethyl morpholine, is then added. The reaction mixture is stirred at 0° C. initially and then at room temperature until the reaction is completed as judged by TLC. Dicyclohexylurea is removed by filtration and 50 ml of ethyl acetate is added to the filtrate. The organic phase is washed until neutral, dried over anhydrous MgSO4 and filtered. The solvent is removed with a rotary evaporator. The residue is crystallized from isopropanol and hexane.

reactant | dicyclohexylcarbodiimide | 15 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | cyclopentanecarboxylic acid | 15 mmoles | C1(CCCC1)C(=O)O | C6H10O2
reactant | cycloleucine benzyl ester toluenesulfonate salt | 15 mmoles | C=1(C(=CC=CC1)S(=O)(=O)O)C.C(C1=CC=CC=C1)OC(C1(N)CCCC1)=O
reactant | N-ethyl morpholine | C(C)N1CCOCC1 | C6H13NO
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | Nα -cyclopentanecarbonyl-cycloleucine | C1(CCCC1)C(=O)NC1(CCCC1)C(=O)O | C12H19NO3
